US04125732
2-(p-Chlorophenoxy)-1-propanol O-methanesulfonate
A solution of 51.5 g of 2-(p-chlorophenoxy)-1-propanol and 57.5 ml of triethylamine in 680 ml of dichloromethane is chilled to -10° C. To the solution is added dropwise with stirring 25.8 ml of methanesulfonyl chloride in 20 ml of dichloromethane. The mixture is stirred for 1 hour at -7° C. to -10° C. and washed with ice cold water, saturated NaCl, saturated NaHCO3 and dried (MgSO4). The solvent is removed under reduced pressure to give 73 g of product as an oil.

reactant | 2-(p-chlorophenoxy)-1-propanol | 51.5 g | ClC1=CC=C(OC(CO)C)C=C1 | C9H11ClO2
reactant | triethylamine | 57.5 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 25.8 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 680 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(p-Chlorophenoxy)-1-propanol O-methanesulfonate | 73 g | CS(=O)(=O)OCC(C)OC1=CC=C(C=C1)Cl | C10H13ClO4S
